US04977160
Ethyl 8-[(3-ethoxy-3-oxopropyl)propylamino]-trans-1,4-dioxaspiro[4.5]decane-7-carboxylate
Ethyl 8-(propylamino)-trans-1,4-dioxaspiro[4.5]-decane-7-carboxylate (129.6 g, 0.48 mole) was dissolved in ethanol (1500 ml), then ethyl acrylate (479 g, 4.8 mole) was added. The mixture was refluxed overnight, then additional ethyl acrylate (479 g, 4.8 mole) was added. The mixture was refluxed for 24 hours, at which time a third addition of ethyl acrylate (479 g, 0.48 mole) was made, followed by 60 hours of reflux. The mixture was then cooled to room temperature, poured into water, and the hydrogen ion concentration was adjusted to pH 10. The product was extracted with methylene chloride, dried with sodium sulfate and evaporated to give 177.4 g of crude product. This was purified by HPLC to give 102.1 g of the title product (59.8%).

reactant | Ethyl 8-(propylamino)-trans-1,4-dioxaspiro[4.5]-decane-7-carboxylate | 0.48 mole, 129.6 g | C(CC)N[C@H]1[C@@H](CC2(OCCO2)CC1)C(=O)OCC | C14H25NO4
reactant | ethyl acrylate | 4.8 mole, 479 g | C(C=C)(=O)OCC | C5H8O2
reactant | ethyl acrylate | 4.8 mole, 479 g | C(C=C)(=O)OCC | C5H8O2
reactant | ethyl acrylate | 0.48 mole, 479 g | C(C=C)(=O)OCC | C5H8O2
reactant | water | O | H2O
solvent | ethanol | 1500 ml | C(C)O | C2H6O
product | Ethyl 8-[(3-ethoxy-3-oxopropyl)propylamino]-trans-1,4-dioxaspiro[4.5]decane-7-carboxylate | 102.1 g, 59.8% | C(C)OC(CCN([C@H]1[C@@H](CC2(OCCO2)CC1)C(=O)OCC)CCC)=O | C19H33NO6
